US05194628
Preparation of 4-acetyl-2,2-difluoro-1,3-benzodioxole
6.2 g (55 mmol) of potassium tert.-butoxide dissolved in 40 ml of tetrahydrofuran (THF) are added dropwise at -30° C. under argon, over a period of 20 minutes, to a solution of 8.0 g (50 mmol) of 2,2-difluoro-1,3-benzodioxole in 10 ml of THF in a 250 ml 3-necked flask. The mixture is then cooled to -90° C. (methanol/liquid nitrogen), and 35 ml (55 mmol) of n-butyllithium (1.58M in hexane) are added thereto over a period of 30 minutes. The deep red solution of 2,2-difluoro-1,3-benzodioxol-4-yl-potassium is maintained at -78° C. for 20 minutes. Then, 5.2 g (50 mmol) of N-methyl-N-methoxy-acetamide in 20 ml of THF are added thereto over a period of 15 minutes at -78° C. When the dropwise addition is complete, the beige reaction mixture is allowed to warm up to -10° C. and is then hydrolysed with 40 ml of 10% hydrochloric acid. The hydrolysed mixture is extracted three times with 70 ml of diethyl ether each time. The organic solutions are washed three times with 30 ml of 1N HCl each time, dried over Na2SO4 and concentrated in a vacuum rotary evaporator. Upon distillation of the residue, 7.1 g (79%) of the product distil over in the form of a colourless oil at boiling point (b.p.) 114°-116° C./30 mbar. 1H NMR (CDCl3 ; 300 MHz): 7.65 (d x d; J 7.9; 1.5; 1H); 7.27 (d x d; J 7.9; 1.5; 1H); 7.18 (t; J 7.9; 1H); 2.68 (s; 3H).

reactant | potassium tert.-butoxide | 55 mmol, 6.2 g | CC(C)([O-])C.[K+]
reactant | 2,2-difluoro-1,3-benzodioxole | 50 mmol, 8.0 g | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
reactant | n-butyllithium | 55 mmol, 1.58M, 35 ml | C(CCC)[Li]
reactant | 2,2-difluoro-1,3-benzodioxol-4-yl-potassium | FC1(OC2=C(O1)C=CC=C2[K])F
reactant | N-methyl-N-methoxy-acetamide | 50 mmol, 5.2 g | CN(C(C)=O)OC | C4H9NO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 4-acetyl-2,2-difluoro-1,3-benzodioxole | C(C)(=O)C1=CC=CC=2OC(OC21)(F)F | C9H6F2O3
